US03993768
5.85 G. of 1-amino-2-nitro-4-thiocyanatobenzene is treated in 20 ml. dimethylformamide under nitrogen at 20°-25° with 1.14 g. sodium borohydride. After 1 hour 10 ml. of methylthioethylchloride is added and the mixture stirred overnight, diluted with water and extracted with chloroform. The dried chloroform solution is passed through a silica gel column, then evaporated to dryness to afford 1-amino-2-nitro-4-methylthioethylthiobenzene.

reactant | 1-amino-2-nitro-4-thiocyanatobenzene | NC1=C(C=C(C=C1)SC#N)[N+](=O)[O-] | C7H5N3O2S
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | sodium borohydride | [BH4-].[Na+]
reactant | methylthioethylchloride | CSCCCl | C3H7ClS
solvent | water | O | H2O
product | 1-amino-2-nitro-4-methylthioethylthiobenzene | NC1=C(C=C(C=C1)SCCSC)[N+](=O)[O-] | C9H12N2O2S2
